US03994954
To a solution of 1.73 g. (0.010 mol.) of phenol and 0.2 ml. of boron trifluoride etherate in 20 ml. of methylene chloride was added dropwise with stirring over a 15 minute interval 3.37 g. (0.011 mol.) of N-benzyloxycarbonyl-2-acetoxyglycine n-butyl ester. After three hours the reaction mixture was cooled and the precipitate collected by filtration to give N-benzyloxycarbonyl-2-(4-hydroxyphenyl)glycine n-butyl ester, m.p. 143°-144°.

reactant | phenol | 0.010 mol | C1(=CC=CC=C1)O | C6H6O
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | N-benzyloxycarbonyl-2-acetoxyglycine n-butyl ester | 0.011 mol | C(CCC)OC(C(NC(=O)OCC1=CC=CC=C1)OC(C)=O)=O | C16H21NO6
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-benzyloxycarbonyl-2-(4-hydroxyphenyl)glycine n-butyl ester | C(CCC)OC(C(NC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)O)=O | C20H23NO5
